US05460669
Guanidinium 3-Nitramino-4-Nitrofurazan
A clean dry 3 neck round bottom flask was equipped with magnetic stirring bar, thermocouple, and nitrogen inlet is placed in an ice bath. 3-Nitroamino-4-nitrofurazan (1.75 grams; 0.1 mol) was added with 5 mls dry methanol. Guanidine (0.59 grams; 0.01 mol) was preweighed into a vial and dissolved in 5 ml dry methanol. The guanidine-containing mixture was added over 5 minutes while the temperature did not exceed 10° C. The resulting mixture was stirred cold for 10 min, and then stirred for an additional hour at ambient. After transfer to a tarred one neck flask, the solvent was removed in vacuo at 35° C. After a period of high vacuum, the yield of crystals was 100% of theoretical. DSC: exothermic peak at 90.96° C. FTIR: 3517, 3413, 3270, 3212 (m), 1660 (d), 1576 (s), 1386, 1344, 1311 (t).

reactant | 3-Nitroamino-4-nitrofurazan | 0.1 mol, 1.75 grams | [N+](=O)([O-])NC1=NON=C1[N+](=O)[O-] | C2HN5O5
reactant | Guanidine | 0.01 mol, 0.59 grams | NC(=N)N | CH5N3
solvent | methanol | 5 ml | CO | CH4O
solvent | methanol | 5 mls | CO | CH4O
product | Guanidinium 3-Nitramino-4-Nitrofurazan | N([N+](=O)[O-])C1=NON=C1[N+](=O)[O-].NC(=[NH2+])N | InChI=1S/C2HN5O5.CH5N3/c8-6(9)2-1(3-7(10)11)4-12-5-2;2-1(3)4/h(H,3,4);(H5,2,3,4)/p+1
